Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins / amoxicillin
 
Attending: ___.
 
Chief Complaint:
Left ICA aneurysm 
 
Major Surgical or Invasive Procedure:
___ Pipeline embo Left ICA aneurysm
 
History of Present Illness:
Ms. ___ is a ___ year old female referred to the ___ 
clinic for a left ophthalmic artery aneurysm that is 4mm. There 
was also question of a fusiform dilation of the left V4 segment 
that was not appreciated on her outside imaging of a CTA from 
___. She quit smoking in ___, but had a sister deceased 
with subarachnoid hemorrhage at age ___. She was initially 
offered treatment with pipeline flow diversion at her visit 
three months
ago, but she was undergoing a lot of transitions as far as her 
insurance and potentially moving to ___ and was not ready 
to commit to treatment at that time. She has clarified her 
insurance coverage and presents for elective pipeline.

 
Past Medical History:
GAIT DISORDER 
FALLS 
Left ICA ANEURYSM 
B12 deficiency 
HYPERLIPIDEMIA
HEARING LOSS
CATARACTS BILATERALLY
RIGHT ARM SURGERY S/P WRIST FRACTURE 
LEFT WRIST GANGLION CYST REMOVAL
 
Social History:
___
Family History:
Sister deceased with subarachnoid hemorrhage at age ___.
 
Physical Exam:
ON DISCHARGE: 
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 3-2mm

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Angio Groin Site: [x]Soft, no hematoma  [x]Palpable pulses

 
Pertinent Results:
Please refer to ___ for pertinent lab and imaging results. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with history of L ICA aneurysm 
who presents for elective pipeline embolization.

#L ICA aneurysm 
She tolerated the procedure which was uncomplicated. Please see 
separately dictated operative report for complete details of the 
procedure. She was transferred to ___ for recovery. She 
remained neurologically and hemodynamically stable and was 
transferred to ___. Remained stable overnight. Foley and Aline 
removed POD#1. She was ambulating, tolerating PO diet, voiding, 
and pain was well controlled. She was discharged home in stable 
condition. 
 
Medications on Admission:
Aspirin 325mg daily 
Plavix 75mg daily 
cholecalciferol (vitamin D3) 2,000 unit tablet PO 5 days per 
week
Vitamin B-12 1,000 mcg tablet PO 5 days per week
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Docusate Sodium 100 mg PO BID  
3.  Aspirin 325 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Cyanocobalamin 1000 mcg PO 5X/WEEK (___)  
6.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L ICA aneurysm 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Activity
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
• You make take a shower.

Medications
• Resume your normal medications and begin new medications as 
directed.
• It is very important to take the medication your doctor ___ 
prescribe for you to keep your blood thin and slippery (ASPRIN 
AND PLAVIX). This will prevent clots from developing and 
sticking to the stent.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site
• You will have a small bandage over the site.
• Remove the bandage in 24 hours by soaking it with water and 
gentle peeling it off.
• Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (groin).
• Soreness in your arms from the intravenous lines.
• The medication may make you bleed or bruise easily.
• Fatigue is very normal.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the puncture 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Constipation
• Blood in your stool or urine
• Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___